US09399646B2
Preparation of 3-((E)-4-((E)-2-(2-Chloro-4-fluorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)styryl)-1,2,4-oxadiazol-5(4H)-one (Compound 437)
A mixture of (E)-3-(4-((E)-2-(2-chloro-4-fluorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile (920 mg, 1.8 mmol) and hydroxylamine (0.18 mL, 2.7 mmol, 50% wt. in water) in ethanol (2 mL) was heated at reflux for 16 h. The ethanol was removed in vacuo, and dichloromethane and water were added. The aqueous layer was extracted with dichloromethane (2×), and the combined organics were washed with brine, dried (MgSO4) and concentrated. Purification by silica gel chromatography (0 to 70% EtOAc/hexanes) provided 433 mg of the title compound as a pale yellow foam. LCMS: 461 [(M-THP+H)+H]+.

reactant | (E)-3-(4-((E)-2-(2-chloro-4-fluorophenyl)-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylonitrile | 1.8 mmol, 920 mg | ClC1=C(C=CC(=C1)F)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=C1)/C=C/C#N)/CC | C31H27ClFN3O
reactant | hydroxylamine | 2.7 mmol, 0.18 mL | NO | H3NO
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | 3-((E)-4-((E)-2-(2-Chloro-4-fluorophenyl)-1-(1H-indazol-5-yl)but-1-en-1-yl)styryl)-1,2,4-oxadiazol-5(4H)-one | 433 mg | ClC1=C(C=CC(=C1)F)/C(=C(/C=1C=C2C=NNC2=CC1)\C1=CC=C(/C=C/C2=NOC(N2)=O)C=C1)/CC | C27H20ClFN4O2
